US05834506
1,5-Bis-(3-benzyloxy-phenyl)-penta-1,4-dien-3-one
The title compound was prepared as described in General Method 2 using 5.03 g (23.7 mmol) of 3-benzyloxy-benzaldehyde, 150 mL of EtOH, 0.65 mL (11.2 mmol) of acetone, and 0.31 g of Ba(OH)2.(H2O)8. The mixture was heated at room temperature overnight and filtered to give the title compound. 1H NMR (CDCl3) δ 5.08 (s, 4 H), 7.03-7.07 (m, 4 H), 7.22-7.47 (m, 16 H), 7.69 (d, 2 H).

reactant | 3-benzyloxy-benzaldehyde | 23.7 mmol, 5.03 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | acetone | 11.2 mmol, 0.65 mL | CC(=O)C | C3H6O
solvent | EtOH | 150 mL | CCO | C2H6O
product | 1,5-Bis-(3-benzyloxy-phenyl)-penta-1,4-dien-3-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=CC(C=CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C31H26O3
